US04284829
4-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-2-butanone
A solution of 3.89 g. (0.010 mol.) of 1-bromo-2-benzyloxy-4-(1,1-dimethylheptyl)benzene in 15 ml. of tetrahydrofuran is slowly added to 0.36 g. (0.015 mol.) of 70-80 mesh magnesium metal. The resultant mixture is refluxed for 20 minutes and is then cooled to -10° C. Cuprous iodide (0.115 g., 0.006 mol.) is added and stirring continued for 10 minutes. To the resultant mixture is slowly added a solution of 0.701 g. (0.010 mol.) of methyl vinyl ketone in 5 ml. of tetrahydrofuran at such a rate that the reaction temperature could be maintained below 0° C. The reaction mixture is stirred for 30 minutes longer (t<0° C.) and is then added to 100 ml. of 1N hydrochloric acid and 100 g. of ice. The quenched reaction is extracted three times with 150 ml. portions of ether. The combined ether extract is washed twice with 100 ml. portions of water, twice with 100 ml. portions of saturated sodium chloride, dried over magnesium sulfate and evaporated to an oil. The oil was purified via column chromatography on 180 g. of silica gel eluted with 20% ether-cyclohexane to yield 1.07 g. (28%) of the title compound as an oil.

reactant | 1-bromo-2-benzyloxy-4-(1,1-dimethylheptyl)benzene | 0.010 mol | BrC1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C22H29BrO
reactant | magnesium | [Mg] | Mg
reactant | methyl vinyl ketone | 0.010 mol | C(=C)C(=O)C | C4H6O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-2-butanone | 28% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)CCC(C)=O | C26H36O2
